US04550105
To a solution of 0.45 g of (3S,4R)-4-azido-3-tritylamino-2-oxoazetidine in 4 ml of acetone is added under ice-cooling 0.255 g of p-toluenesulfonic acid monohydrate, and the mixture is stirred for one hour at room temperature. The solvent is distilled off, and the resulting crystals are washed with ether. The crystals are collected by filtration to give 0.33 g of tosyl salt of (3S,4R)-3-amino-4-azido-2-oxoazetidine.

reactant | (3S,4R)-4-azido-3-tritylamino-2-oxoazetidine | 0.45 g | N(=[N+]=[N-])[C@@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19N5O
reactant | p-toluenesulfonic acid monohydrate | 0.255 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | (3S,4R)-3-amino-4-azido-2-oxoazetidine | N[C@@H]1C(N[C@@H]1N=[N+]=[N-])=O | C3H5N5O
